.SUBCKT potentiometer 1 2 3 PARAMS: Rtot=10k wiper=0.5
.PARAM w = {wiper < 0.001 ? 0.001 : (wiper > 0.999 ? 0.999 : wiper)}
R1 1 3 {Rtot * (1 - w)}
R2 3 2 {Rtot * w}
.ENDS potentiometer